US06316482B1
To a solution of ethyl 3-aminophthalic acid (1.00 g) in ethanol (10 ml) was added formamidine hydrochloride (444 mg) and refluxed for 12 hours. After cooling, the formed precipitate was collected by vacuum filtration and the precipitate was washed with ethanol to give 4-hydroxyquinazoline-5-carboxylic acid (504 mg).

reactant | ethyl 3-aminophthalic acid | 1.00 g | C(C)C=1C(=C(C(C(=O)O)=CC1)C(=O)O)N | C10H11NO4
reactant | formamidine hydrochloride | 444 mg | Cl.C(=N)N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-hydroxyquinazoline-5-carboxylic acid | 504 mg | OC1=NC=NC=2C=CC=C(C12)C(=O)O | C9H6N2O3
